US07179823B1
A mixture of ethyl 3-[3-phenyl-1-[3-(2-pyridylaminocarbonyl)benzyl]-1H-pyrazol-4-yl]propionate (200 mg), 1 N aqueous sodium hydroxide solution (0.88 ml), ethanol (1 ml), and tetrahydrofuran (1 ml) was stirred at room temperature for one hour. 1 N hydrochloric acid (0.88 ml) was added to the reaction mixture, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The obtained crystals were collected by filtration, and 3-[3-phenyl-1-[3-(2-pyridylaminocarbonyl)benzyl]-1H-pyrazol-4-yl]propionic acid (110 mg, yield: 58%) was obtained. This was recrystallized from tetrahydrofuran-hexane. Melting point: 187–188° C.

reactant | ethyl 3-[3-phenyl-1-[3-(2-pyridylaminocarbonyl)benzyl]-1H-pyrazol-4-yl]propionate | 200 mg | C1(=CC=CC=C1)C1=NN(C=C1CCC(=O)OCC)CC1=CC(=CC=C1)C(=O)NC1=NC=CC=C1 | C27H26N4O3
reactant | sodium hydroxide | 1 N, 0.88 ml | [OH-].[Na+]
reactant | ethanol | 1 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 1 N, 0.88 ml | Cl | ClH
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 3-[3-phenyl-1-[3-(2-pyridylaminocarbonyl)benzyl]-1H-pyrazol-4-yl]propionic acid | 110 mg, yield: 58% | C1(=CC=CC=C1)C1=NN(C=C1CCC(=O)O)CC1=CC(=CC=C1)C(=O)NC1=NC=CC=C1 | C25H22N4O3
